US04831151
0.5 g (3.38 mmol) of p-dimethylaminobenzaldehyde is added to a solution of 1.0 g (3.38 mmol) of 3-amino-1-[[p-(dimethylamino)benzyl]amino]-2-ethylimidazolium chloride in 15 ml of glacial acetic acid, the mixture is stirred at room temperature for 24 hours, the solution is evaporated and the crude product is chromatographed on 60 g of silica gel (particle size 0.063-0.200 mm) while eluting with methylene chloride/methanol (3:1 v/v). After recrystallizing the resulting material from ethanol/ether there is obtained 2-ethyl-1-[[p-(dimethylamino)benzyl]-amino]-3-[[p-(dimethylamino)benzylidene]amino]imidazolium chloride of melting point 201°-202°.

reactant | p-dimethylaminobenzaldehyde | 3.38 mmol, 0.5 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 3-amino-1-[[p-(dimethylamino)benzyl]amino]-2-ethylimidazolium chloride | 3.38 mmol, 1.0 g | [Cl-].NN1C(=[N+](C=C1)NCC1=CC=C(C=C1)N(C)C)CC
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-ethyl-1-[[p-(dimethylamino)benzyl]-amino]-3-[[p-(dimethylamino)benzylidene]amino]imidazolium chloride | [Cl-].C(C)C1=[N+](C=CN1N=CC1=CC=C(C=C1)N(C)C)NCC1=CC=C(C=C1)N(C)C | InChI=1S/C23H31N6.ClH/c1-6-23-28(24-17-19-7-11-21(12-8-19)26(2)3)15-16-29(23)25-18-20-9-13-22(14-10-20)27(4)5;/h7-17,25H,6,18H2,1-5H3;1H/q+1;/p-1
